US07737166B2
N-(5-Cyano-2-fluoro-3-hydroxy-6-methylbiphenyl-4-yl)-2,2-dimethylpropionamide (I-71)
A dichloromethane (60 ml) solution of N-(5-cyano-2-fluoro-3-methoxy-6-methylbiphenyl-4-yl)-2,2-dimethylpropionamide (I-70) (2.02 g, 5.93 mmol) was cooled at −78° C., a dichloromethane solution of 1 N tribromoborane (17.8 ml, 17.8 mmol) was dropwise added, followed by stirring at −78° C. for 15 minutes. Afterwards, this was heated up to −12° C., and stirred for 30 minutes. The reaction liquid was put into cold water (100 ml), saturated brine (50 ml) was added, the intended product was extracted with ethyl acetate (300 ml×2). The organic layer was dried over anhydrous magnesium sulfate, concentrated under reduced pressure, the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=5:1) to obtain the entitled compound (1.70 g, 88%) as a yellow solid.

reactant | dichloromethane | 60 ml | ClCCl | CH2Cl2
reactant | N-(5-cyano-2-fluoro-3-methoxy-6-methylbiphenyl-4-yl)-2,2-dimethylpropionamide | 5.93 mmol, 2.02 g | C(#N)C=1C(=C(C(=C(C1C)C1=CC=CC=C1)F)OC)NC(C(C)(C)C)=O | C20H21FN2O2
reactant | tribromoborane | 17.8 mmol, 1 N, 17.8 ml | BrB(Br)Br | BBr3
reactant | water | 100 ml | O | H2O
solvent | brine | 50 ml | [Cl-].[Na+].O
product | N-(5-Cyano-2-fluoro-3-hydroxy-6-methylbiphenyl-4-yl)-2,2-dimethylpropionamide | 1.70 g, 88% | C(#N)C=1C(=C(C(=C(C1C)C1=CC=CC=C1)F)O)NC(C(C)(C)C)=O | C19H19FN2O2
